US08791161B2
3-[(4-chloro-2-{[(2,4-difluorophenyl)sulfonyl]amino}phenyl)thio]-N,N-dimethylpropanamide
Following General Procedure B, the title compound (364 mg, 72%) was prepared from 3-((2-amino-4-chlorophenyl)thio)-N,N-dimethylpropanamide (300 mg, 1.167 mmol) and 2,4-difluorobenzene-1-sulfonyl chloride (248 mg, 1.167 mmol) in pyridine (5 ml).

reactant | 3-((2-amino-4-chlorophenyl)thio)-N,N-dimethylpropanamide | 1.167 mmol, 300 mg | NC1=C(C=CC(=C1)Cl)SCCC(=O)N(C)C | C11H15ClN2OS
reactant | 2,4-difluorobenzene-1-sulfonyl chloride | 1.167 mmol, 248 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-[(4-chloro-2-{[(2,4-difluorophenyl)sulfonyl]amino}phenyl)thio]-N,N-dimethylpropanamide | 364 mg, 72% | ClC1=CC(=C(C=C1)SCCC(=O)N(C)C)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C17H17ClF2N2O3S2
